US05646155
2-Anilino-6-chloropurine was reacted with 2-acetoxyethyl bromide as described above in A.a. 2-Anilino-6-chloro-9-(2-acetoxyethyl)purine was isolated in a 47% yield, mp 193°-194° C.

reactant | 2-Anilino-6-chloropurine | N(C1=CC=CC=C1)C1=NC(=C2NC=NC2=N1)Cl | C11H8ClN5
reactant | 2-acetoxyethyl bromide | C(C)(=O)OCCBr | C4H7BrO2
product | 2-Anilino-6-chloro-9-(2-acetoxyethyl)purine | 47% yield | N(C1=CC=CC=C1)C1=NC(=C2N=CN(C2=N1)CCOC(C)=O)Cl | C15H14ClN5O2
